US09359359B2
To a solution of cyclohexanone (10 g, 0.102 mol) in ethylene glycol (50 mL) was added iodine (3.88 g, 15.3 mmol) and the resulting mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate and extracted with saturated aqueous sodium thiosulfate. The organic phase was dried and concentrated to give a crude product, which was purified via silica gel chromatography eluting with ethyl acetate/petroleum ether (1:8) to give 1,4-dioxaspiro[4.5]decane (6.8 g, 46.9% yield) as light oil. 1H-NMR (CDCl3) δ 3.93(s, 4H), 1.58-1.59 (d, 8H), 1.39-1.41(m, 2H).

reactant | cyclohexanone | 0.102 mol, 10 g | C1(CCCCC1)=O | C6H10O
reactant | iodine | 15.3 mmol, 3.88 g | II | I2
reactant | ethylene glycol | 50 mL | C(CO)O | C2H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-dioxaspiro[4.5]decane | 6.8 g, 46.9% yield | O1CCOC12CCCCC2 | C8H14O2
